US04454320
Following the method of Gronowitz et al. [Chemica Scripta 15, p. 2 (1980)], 2-chloro-3-bromothiophene is reacted with n-butyl lithium in ether at -70° C. After 15 minutes, the organolithium reagent is poured into a solution of alloxan in tetrahydrofuran at -70° C. The reaction mixture is allowed to warm to room temperature for 2 hours, and 5-(2-chloro-3-thienyl)-2,4,6(1H,3H,5H)-pyrimidinetrione isolated according to Example 5.

reactant | 2-chloro-3-bromothiophene | ClC=1SC=CC1Br | C4H2BrClS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2-chloro-3-thienyl)-2,4,6(1H,3H,5H)-pyrimidinetrione | ClC=1SC=CC1C1C(NC(NC1=O)=O)=O | C8H5ClN2O3S
